US08053438B2
To a 350 mL pressure vial is added tert-butyl 4-(3-fluoropyrazin-2-yl)piperidine-1-carboxylate (200 mg, 0.711 mmol), Cs2CO3 (417 mg, 1.280 mmol), and (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (305 mg, 1.280 mmol) and N-methylpyrrolidinone (1.3 mL). The reaction was heated in the microwave at 150° C. 1 h. The reaction was added to a flask containing H2O (20 mL) with rapid stirring. The resulting slurry was filtered and the solid filter cake washed with H2O (3×5 mL). The solid was purified by ISCO (40 g SiO2, 0-20% MeOH/CH2Cl2) to give tert-butyl 4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)piperidine-1-carboxylate as a brown solid.

reactant | tert-butyl 4-(3-fluoropyrazin-2-yl)piperidine-1-carboxylate | 0.711 mmol, 200 mg | FC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20FN3O2
reactant | Cs2CO3 | 1.280 mmol, 417 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 1.280 mmol, 305 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | N-methylpyrrolidinone | 1.3 mL | CN1C(CCC1)=O | C5H9NO
solvent | H2O | 20 mL | O | H2O
product | tert-butyl 4-(3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazin-2-yl)piperidine-1-carboxylate | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C)C=C2 | C28H29N5O4
